US08258293B2
(c). 1-Acetyl-6-methoxy-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
Fiedel-Crafts alkylation of benzene (25 ml) with 1-acetyl-1,2-dihydro-6-methoxy-2,2,4-trimethylquinoline (1.8 g) in the presence of AlCl3 (3.0 g) was performed according to the method described in example 3.

reactant | 1-acetyl-1,2-dihydro-6-methoxy-2,2,4-trimethylquinoline | 1.8 g | C(C)(=O)N1C(C=C(C2=CC(=CC=C12)OC)C)(C)C | C15H19NO2
reactant | AlCl3 | 3.0 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | 1-Acetyl-6-methoxy-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)OC)(C)C1=CC=CC=C1)(C)C | C21H25NO2
